US06770638B2
Step 1: Preparation of 1-(2-Chloroethyl)-4-(2-methoxyphenyl)piperazine
A mixture of 1-(2-methoxyphenyl)piperazine HCl (52.5 mmol) and powdered sodium hydroxide (105 mmol) in DMSO (40 mL), was stirred at ambient temperature. After 0.5 h, 1-bromo-2-chloroethane (78.8 mmol) was added to the solution and left to stir for 4 h. The reaction was monitored by TLC (ethyl acetate: dichloromethane 1:4), upon completion, the mixture was poured into 200 mL of ice water and the product was extracted with dichloromethane twice, dried with sodium sulfate, and solvent was removed under vacuum. Flash chromatography (ethyl acetate: dichloromethane, 1:5 yielded an oil of the title compound (7.30 g).

reactant | 1-(2-methoxyphenyl)piperazine HCl | 52.5 mmol | Cl.COC1=C(C=CC=C1)N1CCNCC1
reactant | sodium hydroxide | 105 mmol | [OH-].[Na+]
reactant | 1-bromo-2-chloroethane | 78.8 mmol | BrCCCl | C2H4BrCl
reactant | ethyl acetate dichloromethane | C(C)(=O)OCC.ClCCl
solvent | DMSO | 40 mL | CS(=O)C | C2H6OS
product | 1-(2-Chloroethyl)-4-(2-methoxyphenyl)piperazine | 7.30 g | ClCCN1CCN(CC1)C1=C(C=CC=C1)OC | C13H19ClN2O
